US09334304B2
Methyl 2-(thiophen-2-yl)acetate
Thiophene acetic acid (27.3 g, 192 mmol) was treated with a solution of H2SO4 (5.76 mL, 108 mmol) in MeOH (384 mL) at reflux for one hour. The reaction was then cooled to room temperature, concentrated by rotovap, diluted with ether, washed with 5% sodium bicarbonate and brine. The organic phase was then dried with magnesium sulfate and concentrated by rotovap to yield the product as a yellow oil (27.4 g, 176 mmol, 91%), which was used without further purification. The product matches data for commercially available methyl 2-(thiophen-2-yl)acetate (CAS No. 19432-68-9).

reactant | Thiophene acetic acid | 192 mmol, 27.3 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | H2SO4 | 108 mmol, 5.76 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 384 mL | CO | CH4O
product | Methyl 2-(thiophen-2-yl)acetate | 176 mmol, 27.4 g, 91% | S1C(=CC=C1)CC(=O)OC | C7H8O2S
